US04021432
A mixture of 9.87 parts of 4-allyloxy-2,2,6,6-tetramethylpiperidine and 3.03 parts of allyl bromide was heated at 90° C. for 96 hours. Ether was added to the cooled reaction mixture and the 4-allyloxy-2,2,6,6-tetramethylpiperidine hydrobromide formed during the reaction was filtered off. The ether solvent was removed by distillation under reduced pressure and the residue purified by chromatography to give 4-allyloxy-1-allyl-2,2,6,6-tetramethylpiperidine.

reactant | 4-allyloxy-2,2,6,6-tetramethylpiperidine | C(C=C)OC1CC(NC(C1)(C)C)(C)C | C12H23NO
reactant | allyl bromide | C(C=C)Br | C3H5Br
solvent | Ether | CCOCC | C4H10O
product | 4-allyloxy-2,2,6,6-tetramethylpiperidine hydrobromide | Br.C(C=C)OC1CC(NC(C1)(C)C)(C)C | InChI=1S/C12H23NO.BrH/c1-6-7-14-10-8-11(2,3)13-12(4,5)9-10;/h6,10,13H,1,7-9H2,2-5H3;1H
